US05710173
Reaction of 2-nitrothiophen-5-carboxaldehyde and 4-trifluoromethylphenylsulfonylacetonitrile as in Example 1 gave (E)-3-(2-nitrothien-5-yl)-2-[4-(trifluoromethyl)phenylsulfonyl]acrylonitrile

reactant | 2-nitrothiophen-5-carboxaldehyde | [N+](=O)([O-])C=1SC(=CC1)C=O | C5H3NO3S
reactant | 4-trifluoromethylphenylsulfonylacetonitrile | FC(C1=CC=C(C=C1)S(=O)(=O)CC#N)(F)F | C9H6F3NO2S
product | (E)-3-(2-nitrothien-5-yl)-2-[4-(trifluoromethyl)phenylsulfonyl]acrylonitrile | [N+](=O)([O-])C=1SC(=CC1)/C=C(\C#N)/S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C14H7F3N2O4S2
